US07173031B2
B) N1-(3-Fluoro-4-hydroxyphenyl)-N3-(4-fluorophenyl)malonamide
3-(4-Fluorophenylamino)-3-oxopropanoic acid (197 mg, 1.00 mmol) was dissolved in 4 mL of dimethylformamide. Triethylamine (140 μL, 1.00 mmol) was added and the solution was cooled to 0° C. 4-Amino-2-fluorophenol (127 mg, 1.00 mmol, Aldrich) was added followed BOP reagent (442 mg, 1.00 mmol). The reaction was allowed to warm to room temperature and was then stirred at room temperature for 3 h. The reaction mixture was concentrated to remove methylene chloride and water was added to precipitate the product. Filtration and trituration with water gave the title compound (211 mg, 69%) as a white solid. 1H NMR (CD3OD) δ 7.61 (m, 2H), 7.51 (dd, 1H, J=13, 2.5 Hz), 7.08 (m, 3H), 6.88 (t, 1H, J=9.4 Hz), 3.51 (s, 2H); MS(ESI+) m/z 307.4 (M+H)+.

reactant | 3-(4-Fluorophenylamino)-3-oxopropanoic acid | 1.00 mmol, 197 mg | FC1=CC=C(C=C1)NC(CC(=O)O)=O | C9H8FNO3
reactant | Triethylamine | 1.00 mmol, 140 μL | C(C)N(CC)CC | C6H15N
reactant | 4-Amino-2-fluorophenol | 1.00 mmol, 127 mg | NC1=CC(=C(C=C1)O)F | C6H6FNO
reactant | BOP reagent | 1.00 mmol, 442 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | N1-(3-Fluoro-4-hydroxyphenyl)-N3-(4-fluorophenyl)malonamide | 211 mg, 69% | FC=1C=C(C=CC1O)NC(CC(=O)NC1=CC=C(C=C1)F)=O | C15H12F2N2O3
